US04749781
(c) N-[(3S)-3-Amino-2-hydroxy-5-methylhexyl]-2-[[(phenylmethyl)amino]carbonyl]-pentanamide, monohydrochloride
A solution of N-[(3S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-2-[[(phenylmethyl)amino]carbonyl]-pentanamide (0.7 g., 1.46 mmole) in saturated hydrochloric acid/ethyl acetate (25 ml.) is stirred at 0° for 2 hours. The reaction mixture is concentrated to a solid residue. Trituration with ether gives 0.60 g. of N-[(3S)-3-amino-2-hydroxy-5-methylhexyl]-2-[[(phenylmethyl)amino[carbonyl]-pentanamide, monohydrochloride as an oily white solid.

reactant | N-[(3S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-2-hydroxy-5-methylhexyl]-2-[[(phenylmethyl)amino]carbonyl]-pentanamide | 1.46 mmole, 0.7 g | CC(C)(OC(=O)N[C@H](C(CNC(C(CCC)C(=O)NCC1=CC=CC=C1)=O)O)CC(C)C)C | C25H41N3O5
reactant | (phenylmethyl)amino[carbonyl]-pentanamide, monohydrochloride | Cl.C1(=CC=CC=C1)CC(C(=O)N)(CCC)C(=O)N
solvent | hydrochloric acid ethyl acetate | 25 ml | Cl.C(C)(=O)OCC
product | N-[(3S)-3-Amino-2-hydroxy-5-methylhexyl]-2-[[(phenylmethyl)amino]carbonyl]-pentanamide, monohydrochloride | Cl.N[C@H](C(CNC(C(CCC)C(=O)NCC1=CC=CC=C1)=O)O)CC(C)C | InChI=1S/C20H33N3O3.ClH/c1-4-8-16(19(25)22-12-15-9-6-5-7-10-15)20(26)23-13-18(24)17(21)11-14(2)3;/h5-7,9-10,14,16-18,24H,4,8,11-13,21H2,1-3H3,(H,22,25)(H,23,26);1H/t16?,17-,18?;/m0./s1
